US05478941
370 g (0.839 mole) of levorotatory (-)-1-[(4-chlorophenyl)phenylmethyl]-4-[(4-methylphenyl)sulfonyl]piperazine (prepared in Example 3.A1) and 405 g of 4-hydroxybenzoic acid are added to 1 liter of a 30% solution of hydrobromic acid in acetic acid. The suspension is stirred for 17 hours at 25° C. 2 liters of water are then added thereto and the suspension is cooled in an ice bath. The precipitate which forms is filtered and washed with 750 ml of water. 2 liters of toluene and 0.9 liters of a 50% aqueous solution of sodium hydroxide are then added to the filtrate. The organic phase is decanted off and washed with 100 ml of water and then once again with 1 liter of a saturated aqueous solution of sodium chloride. The organic phase is dried over sodium sulfate, filtered and the solvent evaporated off under reduced pressure. The residue is recrystallized from 600 ml of boiling hexane. The solution is filtered while hot, so as to remove any slightly insoluble material and the filtrate is then allowed to crystallize, first at ambient temperature, and then for 24 hours in an ice bath. The crystals are filtered off, washed with hexane and dried under vacuum at 40° C. 204.15 g of levorotatory (-)-1-[(4chlorophenyl) phenylmethyl]piperazine are obtained.

reactant | (-)-1-[(4-chlorophenyl)phenylmethyl]-4-[(4-methylphenyl)sulfonyl]piperazine | 0.839 mole, 370 g | ClC1=CC=C(C=C1)C(N1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C)C1=CC=CC=C1 | C24H25ClN2O2S
reactant | 4-hydroxybenzoic acid | 405 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | hydrobromic acid | Br | BrH
reactant | water | 2 liters | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (-)-1-[(4chlorophenyl) phenylmethyl]piperazine | 204.15 g, Yield: 84.8% | ClC1=CC=C(C=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H19ClN2
